### PR TITLE
[Merged by Bors] - feat: implement tauto_set tactic for set-theoretic trivialities

### PR DESCRIPTION
**Pull request by LennyTaelman**
Implement a tactic that proves tautologies involving hypotheses and goals of the form `X ⊆ Y` or `X = Y`, where `X`, `Y` are expressions built using `∪`, `∩`, `\`, and `ᶜ` from finitely many variables of type `Set α`.  It also unfolds `Disjoint` and `symmDiff`.

Discussed in the zulip thread https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Trivialities.20about.20sets

The file MathlibTest/TautoSet.lean contains many usage examples, including a list of lemma's from the Matroid Decomposition Theorem Verification project, which can now be golfed to a single tactic invocation.

### CODE REVIEW

File: Mathlib/Tactic/TautoSet.lean [hunk 1]
```diff
@@ -0,0 +1,55 @@
...
+-/
+
+namespace Mathlib.Tactic.TautoSet
+
+open Lean Elab.Tactic
+
+/--
+  `specialize_all x` runs `specialize h x` for all hypotheses `h` where this tactic succeeds.
+-/
+elab (name := specialize_all) "specialize_all" x:term : tactic => withMainContext do
```
Comment (madvorak) [inline Mathlib/Tactic/TautoSet.lean:20]: Will `specialize_all` be useful elsewhere?

File: Mathlib/Tactic/TautoSet.lean [hunk 2]
```diff
@@ -0,0 +1,55 @@
...
+  example {α} (A B C D : Set α) (h1 : A ⊆ B) (h2 : C ⊆ D) : C \ B ⊆ D \ A := by
+    tauto_set
+
+  example {α} (A B C : Set α) (h1 : A ⊆ B ∪ C) : (A ∩ B) ∪ (A ∩ C) = A := by
+    tauto_set
+  ```
+-/
+macro "tauto_set" : tactic => `(tactic|
+  · simp_all only [
+      Set.diff_eq, Set.disjoint_iff, Set.symmDiff_def,
```
Comment (madvorak) [inline Mathlib/Tactic/TautoSet.lean:42]: I would probably move it two lines lower, just for easier reading in case somebody wants to check the implementation of the tactic.

File: MathlibTest/TautoSet.lean [hunk 3]
```diff
@@ -0,0 +1,153 @@
...
+example : Aᶜᶜᶜ = Aᶜ := by tauto_set
+example : Aᶜᶜ = A := by tauto_set
+
+example (hAB : A ⊆ B) (hBC : B ⊆ C) : A ⊆ C := by tauto_set
+
+example : (Aᶜ ∩ B ∩ Cᶜᶜ)ᶜᶜᶜᶜᶜ = Cᶜ ∪ Bᶜ ∪ ∅ ∪ A ∪ ∅ := by tauto_set
+
+example : D ∩ (B ∪ Cᶜ) ∩ A = (Aᶜᶜ ∩ Cᶜᶜᶜ ∩ D) ∪ (A ∩ Dᶜᶜ ∩ B)ᶜᶜ := by tauto_set
+
+example (h1 : A ⊆ B) (h2 : B ⊆ C) (h3 : C ⊆ D) (h4 : D = E) (h5 : E ⊆ A) :
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:69]:
```suggestion
example (hAB : A ⊆ B) (hBC : B ⊆ C) (hCD : C ⊆ D) (hDE : D = E) (hEA : E ⊆ A) :
```

File: MathlibTest/TautoSet.lean [hunk 4]
```diff
@@ -0,0 +1,153 @@
...
+
+
+/-
+  Examples from the Matroid Decomposition Theorem Verification,
+  see https://github.com/Ivan-Sergeyev/seymour, and in particular
+  https://github.com/Ivan-Sergeyev/seymour/blob/d8fcfa23336efe50b09fa0939e8a4ec3a5601ae9/Seymour/ForMathlib/SetTheory.lean
+-/
+
+-- setminus_inter_union_eq_union
+example  {X Y : Set α} : X \ (X ∩ Y) ∪ Y = X ∪ Y := by tauto_set
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:82]:
```suggestion
example {X Y : Set α} : X \ (X ∩ Y) ∪ Y = X ∪ Y := by tauto_set
```

File: MathlibTest/TautoSet.lean [hunk 5]
```diff
@@ -0,0 +1,153 @@
...
+
+-- disjoint_of_singleton_inter_both_wo
+example {X Y : Set α} {a : α} (hXY : X ∩ Y = {a}) :
+    Disjoint (X \ {a}) (Y \ {a}) := by tauto_set
+
+-- union_subset_union_iff
+example {A B X : Set α} (hAX : Disjoint A X) (hBX : Disjoint B X) :
+    A ∪ X ⊆ B ∪ X ↔ A ⊆ B := by
+  constructor
+  · intro h; tauto_set
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:134]:
```suggestion
  · intro; tauto_set
```

File: MathlibTest/TautoSet.lean [hunk 6]
```diff
@@ -0,0 +1,153 @@
...
+    Disjoint X (Y \ {a}) := by tauto_set
+
+-- disjoint_of_singleton_inter_both_wo
+example {X Y : Set α} {a : α} (hXY : X ∩ Y = {a}) :
+    Disjoint (X \ {a}) (Y \ {a}) := by tauto_set
+
+-- union_subset_union_iff
+example {A B X : Set α} (hAX : Disjoint A X) (hBX : Disjoint B X) :
+    A ∪ X ⊆ B ∪ X ↔ A ⊆ B := by
+  constructor
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:133]:
```suggestion
  constructor <;>
```

**Review by madvorak — APPROVED** [review]

**Comment by madvorak** [comment]
Maybe mention `Disjoint` in the PR description as well?

File: Mathlib/Tactic/TautoSet.lean (hunk 2 above)
Comment (LennyTaelman) [reply Mathlib/Tactic/TautoSet.lean:44]: Not sure if I understood correctly what you intend, but I introduced two empty lines above the macro declaration

File: MathlibTest/TautoSet.lean [hunk 7]
```diff
@@ -0,0 +1,151 @@
...
+-/
+
+import Mathlib.Tactic.TautoSet
+
+variable (α : Type) (A B C D E : Set α)
+
+
+example (h : B ∪ C ⊆ A ∪ A) : B ⊆ A := by tauto_set
+example (h: B ∩ B ∩ C ⊇ A) : A ⊆ B := by tauto_set
+example (h1 : A ⊆ B ∪ C) (h2 : C ⊆ D): A ⊆ B ∪ D := by tauto_set
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:14]:
```suggestion
example (hABC : A ⊆ B ∪ C) (hCD : C ⊆ D): A ⊆ B ∪ D := by tauto_set
```

File: MathlibTest/TautoSet.lean [hunk 8]
```diff
@@ -0,0 +1,151 @@
...
+example : A ⊆ (A ∪ B) ∪ C := by tauto_set
+
+example : A ∩ B ⊆ A := by tauto_set
+example : A ⊆ A ∪ B := by tauto_set
+
+example (h1 : B ⊆ A) (h2 : Set.univ ⊆ B): Set.univ = A := by tauto_set
+
+example (h1 : A ⊆ B) (h2 : C ⊆ D) : C \ B ⊆ D \ A := by tauto_set
+
+example (h1 : Disjoint A B) (h2 : C ⊆ A) : Disjoint C (B \ D) := by tauto_set
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:58]:
```suggestion
example (hAB : Disjoint A B) (hCA : C ⊆ A) : Disjoint C (B \ D) := by tauto_set
```

File: MathlibTest/TautoSet.lean [hunk 9]
```diff
@@ -0,0 +1,151 @@
...
+example : A ∩ (B ∪ C) ⊆ (A ∩ B) ∪ (A ∩ C) := by tauto_set
+
+example : A ⊆ (A ∪ B) ∪ C := by tauto_set
+
+example : A ∩ B ⊆ A := by tauto_set
+example : A ⊆ A ∪ B := by tauto_set
+
+example (h1 : B ⊆ A) (h2 : Set.univ ⊆ B): Set.univ = A := by tauto_set
+
+example (h1 : A ⊆ B) (h2 : C ⊆ D) : C \ B ⊆ D \ A := by tauto_set
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:56]:
```suggestion
example (hAB : A ⊆ B) (hCD : C ⊆ D) : C \ B ⊆ D \ A := by tauto_set
```

File: MathlibTest/TautoSet.lean [hunk 10]
```diff
@@ -0,0 +1,151 @@
...
+example : Aᶜᶜ = A := by tauto_set
+
+example (hAB : A ⊆ B) (hBC : B ⊆ C) : A ⊆ C := by tauto_set
+
+example : (Aᶜ ∩ B ∩ Cᶜᶜ)ᶜᶜᶜᶜᶜ = Cᶜ ∪ Bᶜ ∪ ∅ ∪ A ∪ ∅ := by tauto_set
+
+example : D ∩ (B ∪ Cᶜ) ∩ A = (Aᶜᶜ ∩ Cᶜᶜᶜ ∩ D) ∪ (A ∩ Dᶜᶜ ∩ B)ᶜᶜ := by tauto_set
+
+example (hAB : A ⊆ B) (hBC : B ⊆ C) (hCD : C ⊆ D) (hDE : D = E) (hEA : E ⊆ A) :
+  (Aᶜ ∩ B ∪ (C ∩ Bᶜ)ᶜ ∩ (Eᶜ ∪ A))ᶜ ∩ (B ∪ Eᶜᶜ)ᶜ =
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:70]: 4 spaces when you continue existing declaration

File: MathlibTest/TautoSet.lean [hunk 11]
```diff
@@ -0,0 +1,151 @@
+/-
+Copyright (c) 2025 Lenny Taelman. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Lenny Taelman
+-/
+
+import Mathlib.Tactic.TautoSet
+
+variable (α : Type) (A B C D E : Set α)
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:9]: It doesn't matter for examples; however, I would make them all implicit nevertheless.

File: MathlibTest/TautoSet.lean [hunk 12]
```diff
@@ -0,0 +1,151 @@
...
+example {X Y : Set α} : X \ (X ∩ Y) ∪ Y = X ∪ Y := by tauto_set
+
+-- sub_parts_eq
+example {A E₁ E₂ : Set α} (hA : A ⊆ E₁ ∪ E₂) : (A ∩ E₁) ∪ (A ∩ E₂) = A := by tauto_set
+
+-- elem_notin_set_minus_singleton
+example (a : α) (X : Set α) : a ∉ X \ {a} := by tauto_set
+
+-- sub_union_diff_sub_union
+example {A B C : Set α} (hA : A ⊆ B \ C) : A ⊆ B := by tauto_set
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:91]: Please remove the redeclarations of names you already have in `variable` above.

File: Mathlib/Tactic/TautoSet.lean (hunk 2 above)
Comment (madvorak) [reply Mathlib/Tactic/TautoSet.lean:44]: Now, just swap the order of the simp lemmas. It should not affect the function, but it will be more readable if `diff` and `Disjoint` comes last.

File: MathlibTest/TautoSet.lean [hunk 13]
```diff
@@ -0,0 +1,151 @@
...
+example (h1 : Aᶜ ⊆ ∅) : A = Set.univ := by tauto_set
+example (h1: Set.univ ⊆ Aᶜ) : A = ∅ := by tauto_set
+
+example : A ∩ ∅ = ∅ := by tauto_set
+example : A ∪ Set.univ = Set.univ := by tauto_set
+
+example : ∅ ⊆ A := by tauto_set
+example : A ⊆ Set.univ := by tauto_set
+
+example (h1 : A ⊆ B) (h2: B ⊆ A) : A = B := by tauto_set
```
Comment (madvorak) [inline MathlibTest/TautoSet.lean:43]:
```suggestion
example (hA : A ⊆ B) (hB : B ⊆ A) : A = B := by tauto_set
```

File: Mathlib/Tactic/TautoSet.lean (hunk 2 above)
Comment (LennyTaelman) [reply Mathlib/Tactic/TautoSet.lean]: done

File: MathlibTest/TautoSet.lean (hunk 10 above)
Comment (LennyTaelman) [reply MathlibTest/TautoSet.lean]: done

File: MathlibTest/TautoSet.lean [hunk 14]
```diff
@@ -0,0 +1,151 @@
...
+Authors: Lenny Taelman
+-/
+
+import Mathlib.Tactic.TautoSet
+
+variable {α : Type} {A B C D E : Set α}
+
+
+example (h : B ∪ C ⊆ A ∪ A) : B ⊆ A := by tauto_set
+example (h: B ∩ B ∩ C ⊇ A) : A ⊆ B := by tauto_set
```
Comment (jcommelin) [inline MathlibTest/TautoSet.lean:13]:
```suggestion
example (h : B ∩ B ∩ C ⊇ A) : A ⊆ B := by tauto_set
```

File: MathlibTest/TautoSet.lean [hunk 15]
```diff
@@ -0,0 +1,151 @@
...
+example (h : E ⊇ Aᶜᶜ ∩ Cᶜᶜᶜ ∩ D) : D ∩ (B ∪ Cᶜ) ∩ A ⊆  E ∪ (A ∩ Dᶜᶜ ∩ B)ᶜᶜ := by tauto_set
+
+example (h1 : A = B) : A = B := by tauto_set
+example (h1 : A = B) (h2 : B ⊆ C): A ⊆ C := by tauto_set
+
+example (h1 : A ∩ B = Set.univ) : A = Set.univ := by tauto_set
+example (h1 : A ∪ B = ∅) : A = ∅ := by tauto_set
+
+example (h1 : Aᶜ ⊆ ∅) : A = Set.univ := by tauto_set
+example (h1: Set.univ ⊆ Aᶜ) : A = ∅ := by tauto_set
```
Comment (jcommelin) [inline MathlibTest/TautoSet.lean:35]:
```suggestion
example (h1 : Set.univ ⊆ Aᶜ) : A = ∅ := by tauto_set
```

File: MathlibTest/TautoSet.lean [hunk 16]
```diff
@@ -0,0 +1,151 @@
...
+
+example : A ∩ ∅ = ∅ := by tauto_set
+example : A ∪ Set.univ = Set.univ := by tauto_set
+
+example : ∅ ⊆ A := by tauto_set
+example : A ⊆ Set.univ := by tauto_set
+
+example (h1 : A ⊆ B) (h2: B ⊆ A) : A = B := by tauto_set
```
Comment (jcommelin) [inline MathlibTest/TautoSet.lean:43]:
```suggestion
example (h1 : A ⊆ B) (h2 : B ⊆ A) : A = B := by tauto_set
```

File: MathlibTest/TautoSet.lean (hunk 12 above)
Comment (LennyTaelman) [reply MathlibTest/TautoSet.lean]: Done. I've now just made everything uniform.

File: Mathlib/Tactic/TautoSet.lean [hunk 17]
```diff
@@ -0,0 +1,53 @@
+/-
+Copyright (c) 2025 Lenny Taelman. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Lenny Taelman
+-/
+
+import Mathlib.Data.Set.SymmDiff
+
+/-!
+  The `tauto_set` tactic
```
Comment (adomani) [inline Mathlib/Tactic/TautoSet.lean:10]:
```suggestion
# The `tauto_set` tactic
```

File: Mathlib/Tactic/TautoSet.lean [hunk 18]
```diff
@@ -0,0 +1,53 @@
...
+-/
+
+namespace Mathlib.Tactic.TautoSet
+
+open Lean Elab.Tactic
+
+/--
+  `specialize_all x` runs `specialize h x` for all hypotheses `h` where this tactic succeeds.
```
Comment (adomani) [inline Mathlib/Tactic/TautoSet.lean:18]:
```suggestion
`specialize_all x` runs `specialize h x` for all hypotheses `h` where this tactic succeeds.
```
These indentations are unusual.

**Review by adomani — COMMENTED** [review]
Just a couple of extra style suggestions.

File: MathlibTest/TautoSet.lean (hunk 15 above)
Comment (LennyTaelman) [reply MathlibTest/TautoSet.lean]: Done

**Comment by adomani** [comment]
The CI error is, I think, due to `shake` not picking up "tactic" dependencies (a well-known limitation of `shake`).

If, indeed, the import is needed, simply run `lake exe shake --update` and it will add an entry to `noshake` that you can then PR.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
